Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ w/ h/o COPD on 3L O2, a fib on warfarin, CAD
s/p CABG, HFpEF, IDDM, HLD, and obesity who presented to the ED
with increasing shortness of breath. 

The patient reports that she has been having increasing SOB over
the several days. Specifically, she notes that her breathing
becomes labored with movement or prolonged conversation. Over 
the
course of the week, she has been increasing her oxygen from her
baseline 3L to 5L/day. She denies any chest pain, fever, chills,
cough or increased sputum production. Her ___ is about at 
baseline
and she denies any weight gain. No chest pain, palpitations or
PND. She sleeps upright at baseline but does not have an
increased pillow requirement at night. Given persistence of her
symptoms and generalized malaise this morning, she presented to
the ED for further management.
  
In the ED, initial vitals were:
97.1   85   133/97   19  98% 4L NC 
  
- Exam notable for: Rales at bases bilateral
  
- Labs notable for: 
WBC-10.7  HgB-11.7  Plt-222

142  99  23        AGap=17 
------------<122
3.8  26  0.9  

___: 13.8  PTT: 28.5  INR: 1.3
Trop-T: 0.03   
proBNP: 3003 
Lactate:1.6
 
- Imaging was notable for:  
CXR: Cardiomegaly without superimposed acute cardiopulmonary
process.

- Patient was given:  
-Gabapentin 400 mg PO 
-Warfarin 1 mg PO
-Aspirin 324 mg PO  
-MethylPREDNISolone Sodium Succ 125 mg   
-Lidocaine 5% Patch 1 PTCH 

In the ED, the patient returned to her baseline O2 requirements,
however, given concern for worsening symptoms with minimal
movement, the decision was made to admit to medicine. 

Upon arrival to the floor, patient reports the she feels about
back to her baseline respiratory status. She complains of
significant neuropathic pain in her feet and is requesting her
gabapentin. She also notes that she has been taking her bumex as
prescribed and has been told by her ___ that she has lost 
weight.
She has not taken metolazone this week. She denies any cough,
increased sputum production or wheezing at home. No fevers or
chills.  

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative

 
Past Medical History:
 
PAST MEDICAL HISTORY:  
CAD s/p CABG and multiple ___
HFpEF (LVEF = 53% in ___
Hypertension
T2DM
Hyperlipidemia
Peripheral Neuropathy  
h/o herniated disk (receives monthly injections) 
Macular degeneration of L eye 
Cholecystectomy
Venous Stasis
Dry Skin
Hemorrhoids
Bone spur on right foot
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
ADMISSION VITAL SIGNS: 98.0 PO 126 / 68 88 18 92 3L   
GENERAL: Elderly female, comfortable appearing, speaking in full
sentences
HEENT:  NC/AT, EOMI, right pupil reactive to light, left eye 
with
chronic macular degernation
NECK:  Supple, JVP visible about 2cm above the clavicle at 90
degrees
CARDIAC: Irregularly, irregular, ___ SEM best heard at LUSB, no
gallops
LUNGS: Diminished breath sounds throughout. No crackles or
wheezes 
ABDOMEN: Soft, ND, NTTP, +BS  
EXTREMITIES:  WWP, 1+ pitting edema to the ankle with R>L
NEUROLOGIC:  AAOx3, moving extremities symmetrically and with
purpose 

DISCHARGE PHYSICAL EXAM:  
VITALS:24 HR Data (last updated ___ @ 1247)
    Temp: 97.4 (Tm 98.1), BP: 114/67 (114-127/67-71), HR: 52
(52-78), RR: 18, O2 sat: ___ 3lnc amb% ___ 3lnc amb-99), 
Wt:
179.1 lb/81.24 kg (177.3-179.1)  
ambulation to bathroom while on 3L
GENERAL: Elderly female, comfortable appearing, speaking in full
sentences.
HEENT:  NC/AT, EOMI, right pupil reactive to light, left eye 
with
chronic macular degeneration
NECK:  Supple, JVP not visible.
CARDIAC: Irregularly, irregular, II/VI systolic
crescendo-decrescendo murmur best heard at LUSB, no carotid
bruits. 
LUNGS: Fine rales at bilateral bases. 
ABDOMEN: Soft, ND, NTTP, normoactive BS  
EXTREMITIES:  WWP, 1+ pitting edema to shins b/l. 
NEUROLOGIC:  AAOx3, moving extremities symmetrically and with
purpose 
SKIN: Skin type III. Chronic stasis change in b/l ___. 
 
Pertinent Results:
ADMISSION LAB:
==============
___ 02:30PM BLOOD WBC-10.7* RBC-3.87* Hgb-11.7 Hct-36.2 
MCV-94 MCH-30.2 MCHC-32.3 RDW-13.9 RDWSD-47.3* Plt ___
___ 02:30PM BLOOD Neuts-75.7* Lymphs-17.1* Monos-5.3 
Eos-0.9* Baso-0.6 Im ___ AbsNeut-8.11* AbsLymp-1.83 
AbsMono-0.57 AbsEos-0.10 AbsBaso-0.06
___ 02:30PM BLOOD ___ PTT-28.5 ___
___ 02:30PM BLOOD Glucose-122* UreaN-23* Creat-0.9 Na-142 
K-3.8 Cl-99 HCO3-26 AnGap-17
___ 02:30PM BLOOD ALT-10 AST-15 CK(CPK)-54 AlkPhos-133* 
TotBili-1.2
___ 02:30PM BLOOD CK-MB-3 proBNP-3003*
___ 02:30PM BLOOD Albumin-4.0 Calcium-9.7 Phos-3.2 Mg-1.9

IMAGING AND STUDIES: 

CXR ___:
FINDINGS:  
  
There is no focal consolidation.  No pleural effusion or overt 
edema.  Cardiac 
silhouette is enlarged but similar to prior.  Median sternotomy 
wires are 
intact.  Atherosclerotic calcifications seen at the aortic arch. 

  
IMPRESSION:  
  
Cardiomegaly without superimposed acute cardiopulmonary process. 

  

TTE ___: 
CONCLUSION:
The left atrium is elongated. The right atrium is mildly 
enlarged. There is no evidence for an atrial septal defect by 
2D/color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric
left ventricular hypertrophy with a normal cavity size. There is 
suboptimal image quality to assess regional left ventricular 
function. Global left ventricular systolic function is normal. 
The visually
estimated left ventricular ejection fraction is 55-60%. Left 
ventricular cardiac index is low normal (2.0-2.5 L/min/m2). 
There is no resting left ventricular outflow tract gradient. 
Diastolic function could
not be assessed. Dilated right ventricular cavity with mild 
global free wall hypokinesis. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch diameter
is normal. The aortic valve leaflets (3) are moderately 
thickened. There is moderate aortic valve stenosis (valve area 
1.0-1.5 cm2). There is no aortic regurgitation. The mitral 
leaflets are moderately thickened
with no mitral valve prolapse. There is moderate mitral annular 
calcification. There is minimal mitral stenosis from the 
prominent mitral annular calcification. There is trivial mitral 
regurgitation. There is
mild pulmonic regurgitation. The tricuspid valve leaflets are 
mildly thickened. There is mild [1+] tricuspid regurgitation. 
There is moderate pulmonary artery systolic hypertension. There 
is no pericardial effusion.

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
biventricular systolic function. Right ventricular cavity 
dilation with mild free wall hypokinesis and moderate pulmonary 
artery hypertension. Moderate aortic valve stenosis with 
moderately thickened leaflets. 

Compared with the prior TTE (images not available for review) of 
___, aortic stenosis, RV
dysfunction and significant pulmonary hypertension are detected.

BILATERAL ___ US:
IMPRESSION:  
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins.  Slightly limited views of the bilateral calf veins due 
to body 
habitus. 

CT CHEST W/O CONTRAST ___:
FINDINGS:  
  
LOWER NECK: Unremarkable 
  
AIRWAYS/LUNGS: 
There is mild bilateral lobe terminal bronchiectasis with areas 
of mucous 
plugging. 
Assessment of the lung parenchyma is slightly degraded by motion 
artifact.  
There is mild diffuse interlobular septal thickening 
predominantly in the 
dependent portions of the lungs bilaterally.  Patchy 
ground-glass opacities 
are noted in the lower lobes.  There is bibasilar subsegmental 
atelectasis.  
There is no focal airspace consolidation. 
There is a 15 mm nodule in the periphery of the apicoposterior 
segment of the 
left upper lobe (series 5, image 43).  Additional subcentimeter 
nodules are 
also seen measuring 2 mm in the left lung apex (series 5, image 
24), 7 mm 
pulmonary nodule in the apex of the right upper lobe (series 5, 
image 53) and 
5 mm nodule slightly more anteriorly in the right apex (series 
5, image 54). 
  
PLEURA:  There is no pleural effusion. 
  
LYMPH NODES and MEDIASTINUM: There is an enlarged pericardial 
lymph node 
measuring 19 x 13 mm anterior to the main pulmonary artery 
(5:101).  No 
pathologically enlarged hilar, or axillary lymph nodes. 
  
HEART and VASCULATURE: The heart is mildly enlarged.  Note is 
made of aortic 
valve and mitral annular calcifications.  Patient is status post 
coronary 
bypass surgery.  No pericardial effusion. 
  
BONES/ CHEST WALL:  No aggressive bone lesion seen.  Multilevel 
degenerative 
changes are noted in the thoracic spine.  There is mild thoracic 
kyphosis. 
  
UPPER ABDOMEN: No significant abnormality seen in the visualized 
upper 
abdomen. 
  
IMPRESSION: 
  
  
1. Mild diffuse interlobular septal thickening as described is 
suggestive of mild interstitial pulmonary edema.  Patchy 
ground-glass opacities in the lower lobes are nonspecific but 
could be seen with alveolar edema. 
2. 15 mm nodule in the apicoposterior segment of the left upper 
lobe is 
concerning for primary lung malignancy.  Single enlarged 
anterior mediastinal lymph node is also concerning.  Consider 
PET-CT or short-term follow-up CT chest in ___ weeks. 
3. Additional subcentimeter pulmonary nodules as described can 
also be 
reassessed on follow-up. 
4. Mild bilateral lower lobe bronchiectasis with areas of mucous 
plugging. 
  
RECOMMENDATION(S):  Consider PET-CT or short-term follow-up CT 
chest in ___ weeks. 

DISCHARGE LABS:
=================
___ 05:15AM BLOOD WBC-10.5* RBC-3.66* Hgb-11.2 Hct-34.5 
MCV-94 MCH-30.6 MCHC-32.5 RDW-14.2 RDWSD-48.8* Plt ___
___ 05:15AM BLOOD ___ PTT-33.3 ___
___ 05:15AM BLOOD Glucose-64* UreaN-33* Creat-1.2* Na-141 
K-3.5 Cl-99 HCO3-28 AnGap-14
___ 05:15AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.0
 
Brief Hospital Course:
SUMMARY:
___ w/ h/o COPD on 3L O2, a fib on warfarin, CAD s/p CABG, 
HFpEF,
IDDM, HLD, and obesity who presented to the ED with increasing
shortness of breath. 

ACTIVE ISSUES:
#Acute on chronic hypoxic respiratory failure
#Dyspnea 
#HFpEF exacerbation 
Highest suspicion for mild HFpEF exacerbation given BNP 3000 and 
elevated JVP and rales on examination. CXR without acute process 
and patient denies any fevers, chills, increased sputum 
production or cough making COPD exacerbation less likely. 
Unclear trigger of possible HFpEF exacerbation as patient states 
she has
been taking her medications as prescribed and has had stable 
weights (possibly losing weight). No infectious signs or 
symptoms. During admission she was on her home O2 requirement 
and feeling improved though she continued to have ambulatory 
oxygen destaturations to mid ___ on 3L. A TTE was performed 
which showed mild symmetric left ventricular hypertrophy with 
normal cavity size and global biventricular systolic function. 
Right ventricular cavity dilation with mild free wall 
hypokinesis and moderate pulmonary artery hypertension. Moderate 
aortic valve stenosis with moderately thickened leaflets. These 
findings bring question as to whether underlying pulmonary HTN 
or AS which was newly discovered this admission could be 
contributing to presentation. Question of thrombo-embolic 
disease has been considered, LENIs performed and with no 
evidence of DVT (and patient has been on warfarin, though 
frequently subtherapeutic). She also has a reported history of 
COPD, but no prior PFTs could be located. She was diuresed with 
Bumex 1 mg daily and then IV lasix 80 mg. She has mild ___ as 
below. She was continued on Bumex 2 mg daily as a diuretic 
regimen for discharge. 

#HFpEF: 
LVEF >55%. On bumex 2mg daily and metolazone prn for weight 
gain.
During admission appeared overloaded as detailed above. She was 
on carvedilol as a recent medication change at home which was 
transitioned to metoprolol for less of a blood pressure effect 
given soft to normotension this admission. She was discharged on 
a Bumex 2 mg for diuretic regimen. She was maintained on a low 
Na diet and 2L fluid restriction. Her weight on discharge is 
81.24 kg (179.1 lb). 

#Pulmonary HTN
Newly discovered on echo this admission. Etiology unclear and 
likely multifactorial (underlying pulmonary disease or 
thromboembolic disease or related to heart failure). CT chest 
showed mild pulmonary edema but no evidence of interstitial lung 
disease. She has listed a history of COPD but no wheezing was 
noted on exam. She is scheduled to follow up with pulmonologist. 


#Aortic stenosis 
New on echo this admission. Valve area 1.1cm². Unclear if 
contributing to dyspnea. 
She is scheduled to follow up with cardiologist. 

___ 
Patient with mild elevation in serum Cr to 1.3 up from baseline 
of ~0.8. Likely in setting of diuresis. Cr improved to 1.0 and 
then again rose to 1.2 at time of discharge in setting of 
diuresis with 1mg Bumex and IV Lasix 80mg. She was continued on 
Bumex 2 mg daily as diuretic regimen for discharge. She will 
need repeat serum chemistries and electrolytes checked within 1 
week of discharge. 

#COPD:
On 3L NC at home. Currently without signs or symptoms of acute 
exacerbation and held off on further steroids during this 
admission. Unclear etiology of diagnosis, patient was never a 
smoker. Transitionally patient should have PFTs as outpatient. 

#Atrial Fibrillation:
CHAD2-4 on warfarin for anticoagulation at home. Recently 
transitioned from atenolol to metoprolol during last admission 
for rate control and then switched recently to carvedilol at 
home. Will continue metoprolol 12.5mg XL. INR was subtherapeutic 
on admission and has been uptitrated as outpatient. Given 
frequently sub-therapeutic INR it was decided to initiate 
abixiban 5mg BID for anticoagulation. 

#Lung nodule 
15 mm nodule in the apicoposterior segment of the left upper 
lobe
is concerning for primary lung malignancy. Single enlarged
anterior mediastinal lymph node is also concerning. 
- Transtional issue for PET-CT or short-term follow-up CT chest 
in ___ weeks. 

#Leukocytosis 
Patient with mildly elevated leukocytosis. Has been fluctuating
during admission. Patient asymptomatic without evidence of
infection. 

CHRONIC ISSUES: 
=============== 
#IDDM
-ISS 
-Glargine 30U qhs 

#Low back pain 
On Norco for pain at home
-Continued acetaminophen prn
-Continued oxycodone prn for breakthrough

#Hypertension
-Recently on carvedilol at home. 
- Restarted metoprolol for less blood pressure effect. 

#CAD s/p CABG
-Continued home atorvastatin and aspirin

#Peripheral neuropathy
-Continued home gabapentin 
-Oxycodone prn for breakthrough
-Trialed capsacin topically

#GERD
-Continued home omeprazole 

TRANSITIONAL ISSUES: 
=====================

MED CHANGES:
-Warfarin changed to apixiban for her atrial fibrillation / 
stroke prevention. If renal function were to worsen in the 
future might qualify for reduced dose apixiban.
-Discharged on metoprolol rather than carvedilol as patient had 
lower BPs while inpatient. 
- Potassium supplementation not required this admission. Was 
previously on 20mg TID. Will be discharge on 40 mg daily. Should 
check serum chemistries within 1 week of discharge and 
re-evaluate dosage of potassium supplementation. 

Other transitional issues:
[ ] Discharge weight: 81.24 kg (179.1 lb). 
[ ] Patient found to have 15 mm lung nodule and mediastinal 
lymphadenopathy. She will need PET-CT or short-term follow-up CT 
chest in ___ weeks. 
[ ] She will need follow up with cardiology for her moderate 
aortic stenosis. Cardiology appointment scheduled.
[ ] She should follow up closely with pulmonary about her 
pulmonary hypertension. As above, there is suspicion that 
pulmonary hypertension could be playing a large role in her 
hypoxemia. 
[ ] Patient with diagnosis of COPD without clear etiology, 
patient should have PFTs as outpatient.
[ ] Patient was with subtherapeutic INR and switched from 
warfarin to apixiban, she then had INR up to 2.8 at time of 
discharge. Patient should have INR checked within 1 week of 
discharge. 
[ ] Patient with mild ___ this admission which improved but 
again up-trended to Cr 1.2 at time of discharge in setting of 
diuresis. She should have serum Creatinine checked within one 
week of discharge. 
[ ] Patient discharged on Bumex 2mg. Continue to monitor renal 
function and continue to titrate diuretic dose as clinically 
necessary. ___ need metolazone for weight gain.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Atorvastatin 80 mg PO QPM 
3. Bumetanide 2 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Gabapentin 300 mg PO BID 
6. Gabapentin 600 mg PO QHS 
7. Loratadine 10 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 
10. Metolazone 2.5 mg PO DAILY:PRN Weight gain 
11. Potassium Chloride 20 mEq PO TID 
12. Senna 8.6 mg PO BID:PRN Constipation - First Line 
13. SITagliptin 100 mg oral DAILY 
14. Warfarin 2 mg PO 4X/WEEK (MO,WE,TH,FR) ___ 
15. Hydrocortisone (Rectal) 2.5% Cream ___ID 
16. Warfarin 1 mg PO 3X/WEEK (___) ___ 
17. Lidocaine 5% Patch 1 PTCH TD QAM foot pain  
18. Levemir 30 Units Bedtime
19. Carvedilol 3.125 mg PO BID 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
3.  Potassium Chloride 40 mEq PO DAILY 
Hold for K > 
RX *potassium chloride 20 mEq 2 tablet(s) by mouth daily Disp 
#*60 Tablet Refills:*0 
4.  Bumetanide 2 mg PO DAILY 
RX *bumetanide 1 mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
5.  Levemir 30 Units Bedtime
RX *insulin glargine [Lantus U-100 Insulin] 100 unit/mL 30 Units 
subcutaneously at bedtime Disp #*4 Vial Refills:*0
RX *insulin detemir U-100 [Levemir U-100 Insulin] 100 unit/mL 30 
Units subcutaneously at bedtime Disp #*4 Vial Refills:*0 
6.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB  
7.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
8.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
9.  Gabapentin 300 mg PO BID 
RX *gabapentin 300 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0 
10.  Gabapentin 600 mg PO QHS 
RX *gabapentin 300 mg 2 capsule(s) by mouth at bedtime Disp #*60 
Capsule Refills:*0 
11.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate 
RX *hydrocodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
twice a day Disp #*6 Tablet Refills:*0 
12.  Hydrocortisone (Rectal) 2.5% Cream ___ID  
13.  Lidocaine 5% Patch 1 PTCH TD QAM foot pain   
14.  Loratadine 10 mg PO DAILY  
15.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
16.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth daily Disp #*30 
Tablet Refills:*0 
17.  SITagliptin 100 mg oral DAILY 
RX *sitagliptin [Januvia] 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
18. HELD- Metolazone 2.5 mg PO DAILY:PRN Weight gain  This 
medication was held. Do not restart Metolazone until you speak 
with your primary care doctor. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Acute cardiogenic pulmonary edema 
Acute on Chronic heart failure
Pulmonary hypertension
Aortic stenosis 

Secondary: 
Atrial fibrillation 
Diabetes Mellitus
Peripheral neuropathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___: 

Why did you come to the hospital?
-You came to the hospital because you were feeling short of 
breath. 
-We found a lot of fluid in your lungs and your legs that we 
think made you feel short of breath.

What did we do for you while you were at the hospital?
You had tests performed to look at your heart function which 
showed a condition called pulmonary hypertension and a condition 
called aortic stenosis. We continued to give you medication to 
take fluid off of your lungs. We started you on a new 
medication, called Apixiban, for your atrial fibrillation to 
prevent stroke. You will take this medication instead of your 
coumadin. You were found to have a nodule on your lung as we 
discussed, you will need to follow up with your doctor to have 
another CT scan scheduled. 

What should you do when you go home?
-Continue to weigh yourself every day. If you have >3 lbs of 
weight gain in 1 day, call your doctor.
-___ to eat a low salt (<2g/day)/low sugar diet.
-Please follow up with all of your doctor's appointments.  
-Please take all of your medication as prescribed. There have 
been changes to your medications. Please use only the 
medications listed on this sheet. Please pack all of your other 
medicine pill boxes at home into a bag and store them away. 
-When exerting yourself, please use 4L nasal cannula oxygen at 
all times. At rest, please use 3 L at all times.

It was a pleasure caring for you. 

Sincerely, 
Your ___ Treatment Team
 
Followup Instructions:
___